US07560558B2
Compound 21: 6,7-Dimethoxy-4-[(1-acetyl-5-indolyl)oxy]quinoline
6,7-Dimethoxy-4-[(1H-5-indolyl)oxy]quinoline (50 mg) was dissolved in N,N-dimethylformamide (1 ml), and 60% sodium hydride (7 mg) was added to the solution, followed by stirring under ice cooling for 30 min. Acetyl chloride (16.6 μl) was added to the reaction solution, and the mixture was stirred under ice cooling for additional one hr. Further, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using methanol-chloroform to give the title compound (23 mg, yield 41%).

reactant | 6,7-Dimethoxy-4-[(1H-5-indolyl)oxy]quinoline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CNC2=CC1 | C19H16N2O3
reactant | sodium hydride | 7 mg | [H-].[Na+]
reactant | Acetyl chloride | 16.6 μl | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 6,7-Dimethoxy-4-[(1-acetyl-5-indolyl)oxy]quinoline | 23 mg, yield 41% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CN(C2=CC1)C(C)=O | C21H18N2O4
